US07560564B2
Step A: Preparation of ethyl 4-azido-5-methyl-3-pyridinecarboxylate
A slurry of 14.1 g (78 mmol) of ethyl 1,4-dihydro-5-methyl-4oxo-3-pyridinecarboxylate (prepared according to Horvath, G.; Dvortsak, P. J. Heterocycl. Chem. 1980, 359) in 30 mL of phosphorous oxychloride was refluxed for 1 hour. After cooling, the volatiles were removed with a rotary evaporator. The residue was poured into cold saturated aqueous sodium bicarbonate. Dichloromethane was added and the mixture was filtered through celite. The layers were separated. The organic layer was dried (sodium sulfate) and the solvent was removed with a rotary evaporator. The residue was dissolved in 150 mL of dimethylformamide. 15.2 g (234 mmol) of sodium azide was added. The mixture was heated at 95° C. for 1 hour. After cooling, the solvent was removed with a rotary evaporator. The residue was partitioned between ethyl acetate and water. The organic layer was dried (sodium sulfate) and the solvent was removed with a rotary evaporator. The residue was passed through a plug of silica gel with 25% ethyl acetate in hexanes as eluant to afford 11.9 g of the title compound as a cream colored solid.

reactant | ethyl 1,4-dihydro-5-methyl-4oxo-3-pyridinecarboxylate | 78 mmol, 14.1 g | CC=1C(C(=CNC1)C(=O)OCC)=O | C9H11NO3
reactant | sodium azide | 234 mmol, 15.2 g | [N-]=[N+]=[N-].[Na+]
solvent | phosphorous oxychloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-azido-5-methyl-3-pyridinecarboxylate | 11.9 g | N(=[N+]=[N-])C1=C(C=NC=C1C)C(=O)OCC | C9H10N4O2
